US07378409B2
A solution of tert-butyl (1R,3R,4S)-4-amino-3-(methoxymethyl)cyclohexylcarbamate (45 mg, assumed 0.163 mmol) in acetonitrile (1.5 mL) was treated sequentially with 2-(3-(trifluoromethyl)benzamido)acetic acid (43 mg, 0.174 mmol, see PCT WO 0250019), diisopropylethylamine (61 μL, 0.348 mmol) and TBTU (62 mg, 0.192 mmol). The mixture was stirred at rt for 2.75 h, then was diluted with ethyl acetate, washed sequentially with 1.0 M aqueous HCl, saturated aqueous NaHCO3, water and brine, dried over Na2SO4 and concentrated under vacuum. The residue was purified by flash column chromatography on silica gel, eluting with 1:3 v/v hexane-ethyl acetate, to provide tert-butyl (1R,3R,4S)-3-(methoxymethyl)-4-(2-(3-(trifluoromethyl)benzamido)acetamido)cyclohexylcarbamate as a white solid (48 mg). MS found: (M+H)+=488.3.

reactant | tert-butyl (1R,3R,4S)-4-amino-3-(methoxymethyl)cyclohexylcarbamate | 0.163 mmol, 45 mg | N[C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)COC | C13H26N2O3
reactant | 2-(3-(trifluoromethyl)benzamido)acetic acid | 0.174 mmol, 43 mg | FC(C=1C=C(C(=O)NCC(=O)O)C=CC1)(F)F | C10H8F3NO3
reactant | diisopropylethylamine | 0.348 mmol, 61 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | TBTU | 0.192 mmol, 62 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl (1R,3R,4S)-3-(methoxymethyl)-4-(2-(3-(trifluoromethyl)benzamido)acetamido)cyclohexylcarbamate | 48 mg | COC[C@@H]1C[C@@H](CC[C@@H]1NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)NC(OC(C)(C)C)=O | C23H32F3N3O5
